US04496735
3 g of sodium hydride (50%) was added to 50 ml of tetrahydrofuran and 10 g of triethyl 2-phosphonopropionate was added dropwise to the mixture. A solution of 7.0 g of 4-(2-methyl-5-pyridyloxy)benzaldehyde in 20 ml of tetrahydrofuran was added dropwise to the mixture, followed by stirring for 3 hours. Diethyl ether and water were added to the reaction mixture and the organic layer was separated, washed with water and extracted with 10% hydrochloric acid. The aqueous layer was washed with diethyl ether, rendered alkaline with sodium carbonate and extracted with diethyl ether. The ether layer was washed with water and dried over magnesium sulfate. The solvent was distilled off and the resulting oily substance was purified by silica gel chromatography (eluted with dichloromethane-hexane, 1:1 to 2:1 by volume) to obtain 6.0 g (61% yield) of ethyl 2-ethyl-3-[4-(2-ethyl-5-pyridyloxy)phenyl]propenoate as a colorless oil having a boiling point of 170° C./2 mmHg (bath temperature).

reactant | sodium hydride | 3 g | [H-].[Na+]
reactant | triethyl 2-phosphonopropionate | 10 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | 4-(2-methyl-5-pyridyloxy)benzaldehyde | 7.0 g | CC1=NC=C(C=C1)OC1=CC=C(C=O)C=C1 | C13H11NO2
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 2-ethyl-3-[4-(2-ethyl-5-pyridyloxy)phenyl]propenoate | 6.0 g, 61% yield | C(C)C(C(=O)OCC)=CC1=CC=C(C=C1)OC=1C=CC(=NC1)CC | C20H23NO3
